US06441005B1
5-(S)-Thioacetamidomethyl-3-[4′-(N-methylamino)carbonyl-3′-fluorophenyl]-oxazolidine-2-one
A solution of 5-(S)-thioacetamidomethyl-3-[4′-(pentafluorophenoxy)carbonyl-3′-fluorophe-nyl]oxazolidine-2-one (0.100 g, 0.209 mmol) in 2 M methylamine in THF (1.0 mL) was stirred at r.t. for 1 h. Solvent was removed under vacuum and the residue purified by PTLC (10% MeOH in DCM) to give the pure product as a white solid (0.054 g, 80%). M.p. 176-7° C. MS (m/z): [M+H]+=326.

reactant | 5-(S)-thioacetamidomethyl-3-[4′-(pentafluorophenoxy)carbonyl-3′-fluorophe-nyl]oxazolidine-2-one | 0.209 mmol, 0.100 g | C(C)(=S)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)F | C19H12F6N2O4S
reactant | methylamine | 2 M | CN | CH5N
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 5-(S)-Thioacetamidomethyl-3-[4′-(N-methylamino)carbonyl-3′-fluorophenyl]-oxazolidine-2-one | 0.054 g, 80% | C(C)(=S)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)NC)F | C14H16FN3O3S
